Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bilateral subacute subdural hematomas
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ year old male
with a history of atrial fibrillation on aspirin and warfarin 
who
presented to the Emergency Department on ___ as a transfer
from an outside facility with bilateral subacute subdural
hematomas. Patient reports that he suffered from a fall back in
mid ___ while in ___. At that time, patient went 
to
the Emergency Department there and was reportedly found to have 
a
2.6mm right sided subdural hematoma. Patient was admitted and 
had
a repeat CT of the head, which was reportedly stable. He was
subsequently discharged with instructions to have another repeat
CT of the head upon his return home to ___. Patient 
had
repeat CT of the head at an outside facility on ___. Per 
the
report from the outside facility, the CT of the head revealed an
increase in the size of the right sided subdural hematoma to
approximately 18mm as well as a new left sided subdural hematoma
measuring approximately 15mm. Patient was contacted by the
outside facility today on ___ and instructed to come to 
___ for further evaluation and
management. The Neurosurgery Service was consulted for question
of acute neurosurgical intervention. Patient denies confusion,
dizziness, headache, visual changes, nausea, vomiting, weakness,
numbness, and tingling. He also denies any falls since the ___
in mid ___. 
 
Past Medical History:
- atrial fibrillation
- hypertension
- obstructive sleep apnea
- status post bilateral cataract surgery ___ years ago
- status post hernia surgery approximately ___ years ago
- status post pacemaker placement approximately ___ years ago
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
On Admission
============
Exam:

Vital Signs: T 98.3F, HR 66, BP 105/59, RR 16, O2Sat 99% room 
air

General: Well nourished, well dressed, elderly male. Resting
comfortably, no acute distress.
Head, Eyes, Ears, Nose, Throat: Normocephalic, atraumatic.
Extremities: Warm and well perfused.

Neurologic:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested.
II: Pupils equal, round, and reactive to light.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No drift.

Sensation: Intact to light touch.

============
On Discharge
============
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm
EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     

Speech Fluent: [x]Yes [ ]No
Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[-]Clonus ___ [+]Sensation intact to light touch
[+]Propioception intact
 
Pertinent Results:
Please see OMR for pertinent lab/imaging studies.
 
Brief Hospital Course:
#Bilateral subacute subdural hematomas
Patient was admitted to the neurosurgery floor (Farr11) from the 
emergency department with bilateral subacute subdural hematomas. 
He was neurologically intact upon admission. He was admitted 
with plan for bilateral burr holes for subdural hematoma 
evacuation on hospital day 1. The patient and his family 
initially consented for the procedure, but then elected to not 
have the surgery. He expressed verbal understanding of the risks 
and benefits of the surgery, and elected to decline the surgery 
for now. He remained neurologically stable, and ambulated well 
with nursing (requiring a cane at baseline), carried out all of 
his ADLs independently. He was discharged home with plan to 
follow up in clinic in 1 week with a non contrast head CT.

#History of AF on coumadin/ASA
His coumadin and aspirin were held in the context of subdural 
hematomas. 
 
Medications on Admission:
- acetaminophen 325mg by mouth once daily at bedtime
- aspirin 81mg by mouth once daily, has not taken since fall in
mid ___
- lisinopril 10mg by mouth once daily
- multivitamin 1 tablet by mouth once daily
- warfarin, unknown dose, by mouth, unknown frequency, has not
taken since fall in mid ___
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bilateral subacute subdural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane). (Walks with cane at baseline, otherwise independent.)

 
Discharge Instructions:
Discharge Instructions

Brain Hemorrhage without Surgery

Activity

• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

• No driving while taking any narcotic or sedating medication. 

• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

• Please do **NOT** take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Warfarin/Coumadin) until cleared by the 
neurosurgeon. 

• You ___ use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

• You ___ have difficulty paying attention, concentrating, and 
remembering new information.

• Emotional and/or behavioral difficulties are common. 

• Feeling more tired, restlessness, irritability, and mood 
swings are also common.

• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

• Headache is one of the most common symptom after a brain 
bleed. 

• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

• Mild pain medications ___ be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

• Severe pain, swelling, redness or drainage from the incision 
site. 

• Fever greater than 101.5 degrees Fahrenheit

• Nausea and/or vomiting

• Extreme sleepiness and not being able to stay awake

• Severe headaches not relieved by pain relievers

• Seizures

• Any new problems with your vision or ability to speak

• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

• Sudden numbness or weakness in the face, arm, or leg

• Sudden confusion or trouble speaking or understanding

• Sudden trouble walking, dizziness, or loss of balance or 
coordination

• Sudden severe headaches with no known reason

 
Followup Instructions:
___